US05567726
4. 1-(tert-Butyloxycarbonylamino)-3-(carbomethoxymethylene)cyclobutane
To a cooled (-70° C.) and stirred solution of trimethyl phosphonoacetate (1.5 g) in anhydrous tetrahydrofuran (40 ml) was added potassium bis(trimethylsilyl)amide (0.5M in toluene; 15.07 ml) at such a rate as to maintain the internal temperature below -62° C. (ca 8 min). After 15 minutes of stirring at -70° C., a solution of 3-(tert-butyloxycarbonylamino)cyclobutan-1-one (1.27 g) in anhydrous tetrahydrofuran (10 ml) was added over 9 minutes, under a nitrogen atmosphere. The mixture was then allowed to warm to room temperature and it was stirred for 1 hour before it was quenched with saturated aqueous ammonium chloride (40 ml). Products were extracted with ethyl acetate (2×50 ml) and the combined organic solutions were washed with brine (1×40 ml), dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, hexane-ethyl acetate, 75:25) gave 1.61 g (97%) the title compound as a white solid; mp 79°-82° C. δ (250 MHz, CDCl3) 5.70 (1H, m, --CH--), 4.81 (1H, br s, --NH--), 4.32-4.13 (1H, m, --CH--), 3.69 (3H, s, --OMe), 3.64-3.50 (1H, m, --CH2 --), 3.26-3.10 (1H, m, --CH2 --), 3.00-2.86 (1H, m, --CH2 --), 2.80-2.68 (1H, m, --CH2 --), 1.45 (9H, s, t--Bu); m/z (CI) 240 (M- -1). (Found: C, 60.28; H, 7.87; N, 5.76. C12H19NO4 ×0.03 C6H14 requires: C, 59.99; H, 8.02; N, 5.75%.)

reactant | trimethyl phosphonoacetate | 1.5 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | potassium bis(trimethylsilyl)amide | 0.5M, 15.07 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-(tert-butyloxycarbonylamino)cyclobutan-1-one | 1.27 g | C(C)(C)(C)OC(=O)NC1CC(C1)=O | C9H15NO3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(tert-Butyloxycarbonylamino)-3-(carbomethoxymethylene)cyclobutane | 1.61 g, 97% | C(C)(C)(C)OC(=O)NC1CC(C1)=CC(=O)OC | C12H19NO4
